US06645979B2
A stirred suspension of guanidine hydrochloride (3.8 kg, 39.8 mol) and KOtBu (4.28 kg, 38.1 mol) in DME (17.6 L) was heated to reflux under N2 for 1 hour. The gum containing solution was cooled to room temperature, diluted with NMP (8.8 L) and 1,4-dichloro-7-(3-cyanophenyl)isoquinoline (4.4 kg, 14.7 mol) was added as a solid. The mixture was heated at reflux overnight, cooled to room temperature, filtered through a pad of celite and the pad washed with DME (4.4 L). Water (35.2 L) was added to the filtrate. The resultant slurry was stirred for 2 hour and the solid collected by filtration. The solid was washed with water (4.4 L) and dried in vacuo at 50° C. to give (4-chloro-7-(3-cyanophenyl)isoquinolin-1-yl)guanidine (4.55 kg, 14.1 mol, 96%) as a green solid.

reactant | guanidine hydrochloride | 39.8 mol, 3.8 kg | Cl.NC(=N)N
reactant | KOtBu | 38.1 mol, 4.28 kg | CC(C)(C)[O-].[K+]
reactant | 1,4-dichloro-7-(3-cyanophenyl)isoquinoline | 14.7 mol, 4.4 kg | ClC1=NC=C(C2=CC=C(C=C12)C1=CC(=CC=C1)C#N)Cl | C16H8Cl2N2
solvent | DME | 17.6 L | COCCOC | C4H10O2
solvent | NMP | 8.8 L | CN1CCCC1=O | C5H9NO
product | (4-chloro-7-(3-cyanophenyl)isoquinolin-1-yl)guanidine | 14.1 mol, 4.55 kg, 96% | ClC1=CN=C(C2=CC(=CC=C12)C1=CC(=CC=C1)C#N)NC(=N)N | C17H12ClN5
